US07981903B2
The remaining half of the reaction mixture from the preparation of 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide was diluted with THF (100 mL) and a solution of methylamine (2M, 9 mL), 18 mmol). The reaction mixture was stirred overnight, then concentrated to dryness. The residue was sonicated in CH2Cl2 (15 mL) and filtered. The filtrate was purified by silica gel chromatography using 10% THF/CH2Cl2 to obtain 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide as a yellow solid (236 mg, 41% for 2 steps). 1H NMR (400 MHz, DMSO-d5) δ ppm 2.16 (s, 3H), 2.34 (s, 3H), 2.75 (d, J=4.4 Hz, 3H), 3.19 (d, J=8.24 Hz, 2H), 3.73 (s, 3H), 4.15 (d, J=8.33 Hz, 2H), 6.55 (d, J=3.85 Hz, 1H), 6.94 (t, J=9.25 Hz, 1H), 7.04 (s, 1H), 7.17-7.41 (m, 4H), 7.93 (d, J=8.24 Hz, 2H), 7.98 (J=8.42 Hz, 1H), 8.16 (s, 1H), 8.19 (s, 1H), 8.36-8.52 (m, 1H), 10.16 (s, 1H); ESIMS (M+H)+=644.20.

reactant | 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | C(C)(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC | C31H28FN7O5S
reactant | methylamine | 2M, 9 mL | CN | CH5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-({2-{[1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | C(C)(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC | C32H30FN7O5S
